US09079835B2
To a flame-dried round-bottomed flask was added 9-decyn-1-ol (1 equiv, 32.4 mmol, 5.00 g), dihydropyran (1.5 equiv, 48.6 mmol, 4.09 g, 4.5 mL), CH2Cl2 (50 mL), and PPTS (0.1 equiv, 3.24 mmol, 800 mg). The reaction was stirred for 16 h at rt and quenched with sat. aq. NaHCO3 (40 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic layers were washed with H2O (30 mL), dried with Na2SO4, concentrated in vacuo, and purified by flash column chromatography (5% EtOAc/Hex) to afford 9-Decyn-1-ol tetrahydropyranyl ether (7.55 g, 31.7 mmol, 98%). TLC Rf=0.30 (5% EtOAc/Hex); 1HNMR (600 MHz): δ 4.55-4.62 (1H), 3.83-3.91 (m, 1H), 3.70-3.78 (m, 1H), 3.48-3.55 (m, 1H), 3.36-3.43 (m, 1H), 2.19 (td, 2H, J1=7.1 Hz, J2=2.6 Hz), 1.95 (t, 1H, J=2.6), 1.80-1.89 (1H), 1.69-1.76 (1H), 1.50-1.63 (8H), 1.28-1.44 (8H); 13CNMR (150 MHz): δ 98.8, 84.7, 68.1, 67.6, 62.3, 30.8, 29.7, 29.3, 29.0, 28.7, 28.5, 26.2, 25.5, 19.7, 18.4.

reactant | 9-decyn-1-ol | 32.4 mmol, 5.00 g, 1 equiv | C(CCCCCCCC#C)O | C10H18O
reactant | dihydropyran | 48.6 mmol, 4.5 mL, 4.09 g, 1.5 equiv | O1CCCC=C1 | C5H8O
reactant | PPTS | 3.24 mmol, 800 mg, 0.1 equiv | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 9-Decyn-1-ol tetrahydropyranyl ether | 31.7 mmol, 7.55 g, 98% | O1C(CCCC1)OCCCCCCCCC#C | C15H26O2
